US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(1-methyltetrazol-5-ylthio)butyramide
Following a procedure similar to that described in Example 34, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 1-methyl-5-mercaptotetrazole as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 70% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 1-methyl-5-mercaptotetrazole | CN1N=NN=C1S | C2H4N4S
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(1-methyltetrazol-5-ylthio)butyramide | 70% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC1=NN=NN1C)=O | C21H31N7O2S
